US03984474
A. 4β,5-Epoxy-9-fluoro-11β-hydroxyandrostane-3,17-dione
A solution of 10g of 9-fluoro-11β-hydroxyandrost-4-ene-3,17-dione in 1.5 liter of methanol is stirred at room temperature with 30ml of 30% hydrogen peroxide and 20ml of 4N sodium hydroxide solution. The resulting solution is diluted with 4 liters of water and extracted with dichloromethane. The dichloromethane solution is washed with 5% hydrochloric acid, 5% sodium bicarbonate solution, water, dried, and evaporated in vacuo to give 9.1g of crude product. This material is dissolved in dichloromethane and chromatographed on a 100g-silica gel column. Elution with the same solvent gives 3.39g of the title compound and some impure material which is rechromatographed to give a further 1.71g of the title compound.

reactant | 9-fluoro-11β-hydroxyandrost-4-ene-3,17-dione | F[C@@]12[C@]3(CCC(C=C3CC[C@H]1[C@@H]1CCC([C@@]1(C)C[C@@H]2O)=O)=O)C | C19H25FO3
reactant | hydrogen peroxide | 30ml | OO | H2O2
reactant | sodium hydroxide | 4N, 20ml | [OH-].[Na+]
solvent | methanol | 1.5 liter | CO | CH4O
solvent | water | 4 liters | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4β,5-Epoxy-9-fluoro-11β-hydroxyandrostane-3,17-dione | 3.39g | O1[C@@H]2C13CC[C@H]1[C@@H]4CCC([C@@]4(C)C[C@@H]([C@@]1([C@]3(CCC2=O)C)F)O)=O | C19H25FO4
